Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ranitidine / statins
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o female with a history of pancreatic 
cancer and prior h/o IDDM not currently on treatment who 
presents with weakness and consusion. For the 2 days prior to 
presentation the patient has become increasingly more confused, 
weak, and incontinent of urine. Per the family the patient is 
not acting like her usual self. Additionally, the patient 
slipped out of bed but did not endure a head strike or LOC.
 
In the ED, initial vitals:  99.0, 74, 164/44, 22, 92% on RA. 
Exam/labs were notable for: WBC 10.9 with 87.5% PMNs, anemia at 
baseline, AP 295, Glc 832, Na 125 (corrected for glc 137), Cr 
2.3 (baseline 1.4-1.8), K 5.6, lactate 2.5, pH 7.36, Urine with 
1000 glucose and no ketones, negative serum/urine tox. Imaging 
showed: CT abd/pelvis showed poorly characterized uncinate 
process mass. CT C-spine without fracture. CT Head with possible 
chronic subdural bleed or hygroma, no acute bleed. Patient was 
given: insulin drip, 2.5L IVF, vancomycin, ceftriaxone, 
lorazepam and morphine. 
 
On transfer, vitals were: 67 117/74 20 96% RA. Fingersticks were 
still greater than assay. Repeat labs showed a Na 135 and a K of 
4.1, anion gap 13. 

On arrival to the MICU, the patient is altered, nonverbal, 
communicating in groans. She is unable to provide further 
history. Per her son, ___, her dementia has been worsening, 
and she is disoriented at baseline, although her overall health 
was well. She could walk with a walker. Over the last week, she 
has been having more urinary incontinence. She went on a trip to 
___ with one of her sons last weekend and got progressively 
worse - more disoriented, couldn't stand up. No cough, fevers, 
diarrhea. She does have some sores on her bottom, and they have 
been applying neosporin. Her home nurse had said that it had 
been getting better. When she slipped and fell, he does not 
think she endured any injuries. Right shoulder is always sore 
from prior rotator cuff surgery, also left knee. 

Review of systems:  
Unable to provide due to altered mental status.
 
Past Medical History:
ONCOLOGIC HISTORY:  ___ initially presented in ___
with fatigue, vomiting, and a 15- to 20-pound weight loss.  She
then sustained a mechanical fall in ___ after which she was
in rehabilitation for sometime.  In early ___, she became
jaundiced and was hospitalized with a bilirubin of 6.0 and
alkaline phosphatase of 300.  CT ___ showed intra and 
extra
hepatic biliary dilatation with multiple cysts in the pancreas
thought to be consistent with IPMN.  ERCP ___ at 
___ identified a common bile duct stricture.  A biliary
stent was placed.  It is unclear whether this was a plastic or
permanent metal stent.  Cytology from the common bile duct
brushings was suspicious for adenocarcinoma.  CA ___ on 
___
measured 529 u/mL.  PET CT ___ showed activity in the
pancreatic head versus distal common bile duct.  Several 4-5 mm
nodules were also noticed in the lungs without FDG avidity.  A
dedicated chest CT was performed ___.  Endoscopic
ultrasound with biopsy ___ showed adenocarcinoma.  Ms.
___ began chemotherapy with gemcitabine ___, and
completed three cycles as of ___.  She was then treated
with CyberKnife stereotactic body radiotherapy, completed
___.

PAST MEDICAL HISTORY:  
1.  Type 2 diabetes mellitus. - on insulin in the past, but not 
most recently due to weight loss from chemo in the ___
2.  Hypertension.
3.  Chronic kidney disease stage III
4.  Depression.
5.  Dementia - Mini mental score ___ in ___
6.  Osteoarthritis.
7.  Status post right rotator cuff injury.
8.  Status post right total knee replacement.
9.  CAD - MI ___ yrs ago, echo ___ normal, stress ___ with 
anterior ischemia
10. Gout
11. HLD
12. Lacunar CVA with no residual deficits
13. Nephrolithiasis
14. Spinal stenosis L ___ and ___.
15. Pancreatic cancer s/p chemo and radiation ___
16. H/o aspiration PNA and sepsis at ___ ___
17. Chronic diarrhea
18. Lower GI bleed secondary to hemorrhoids vs colitis
19. PVD
20. Cholinergic chrisis in past
21. Vitamin D deficiency
 
Social History:
___
Family History:
The patient's daughter died of advanced colon cancer at ___ 
years. Another son was treated for colon cancer at ___ years. 
Third son has prostate cancer.  Four of her five brothers and 
sisters are now deceased related to cardiovascular disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================================
Vitals: 97.8, 102/40, 17, 96% on RA  
GENERAL: disoriented elderly woman responding to questions with 
groans, sleepy but easily arousable, no acute distress  
HEENT: Sclera anicteric, MM very dry, oropharynx clear  
NECK: supple, JVP not elevated  
LUNGS: Anterolateral lung exam limited. Clear to auscultation 
bilaterally, no wheezes, rales, rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, hyperactive bowel sounds, 
no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Stage II sacral decubitus ulcer visualized by nurse 
NEURO: PERRL, CNs grossly intact, MAEE, withdraws to pain in all 
extremities 

DISCHARGE PHYSICAL EXAM:
======================================
VS: 98.3  138/54  76  18  96%RA
General: Lying in bed awake, alert, answers simple questions and 
follows simple commands. Knew her name and that she was in 
hospital. Did not know date or year or specific hospital. In no 
distress.
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated 
LUNGS: Lungs clear to auscultation bilaterally, no wheezes. Good 
air movement.
CV: Regular rate and rhythm, normal S1 S2, ___ SEM.
ABD: BS+, soft, non-tender, non-distended, no rebound tenderness 
or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Stage II sacral decubitus ulcer. Several small 
errythematous papules to the right of coccycx, no clear 
vessicles, nontender. Lateral bruise across back of neck at base 
of skull.  
NEURO: PERRL, CNs grossly intact, moving all extremities. 
Ambulates with assistance.

 
Pertinent Results:
LABS:
======================================
___ 01:57PM BLOOD WBC-10.9# RBC-3.65* Hgb-11.5* Hct-35.7* 
MCV-98 MCH-31.4 MCHC-32.1 RDW-12.7 Plt ___
___ 01:57PM BLOOD Neuts-87.5* Lymphs-6.3* Monos-5.4 Eos-0.4 
Baso-0.4
___ 01:57PM BLOOD ___ PTT-28.2 ___
___ 01:57PM BLOOD Glucose-832* UreaN-57* Creat-2.3* Na-125* 
K-5.6* Cl-89* HCO3-22 AnGap-20
___ 01:57PM BLOOD ALT-44* AST-24 AlkPhos-295* TotBili-0.4
___ 01:57PM BLOOD Lipase-16
___ 01:57PM BLOOD Albumin-3.9
___ 10:30PM BLOOD Calcium-8.9 Phos-2.5* Mg-2.0
___ 06:23PM BLOOD TSH-0.43
___ 01:57PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:04PM BLOOD ___ pO2-41* pCO2-52* pH-7.36 
calTCO2-31* Base XS-2
___ 02:04PM BLOOD Lactate-2.5*
___ 02:27PM URINE Color-Straw Appear-Clear Sp ___
___ 02:27PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:27PM URINE RBC-1 WBC-8* Bacteri-FEW Yeast-NONE Epi-0
___ 08:24AM BLOOD WBC-5.5 RBC-3.36* Hgb-10.2* Hct-32.4* 
MCV-96 MCH-30.4 MCHC-31.5 RDW-12.6 Plt ___
___ 08:24AM BLOOD Glucose-153* UreaN-31* Creat-1.6* Na-140 
K-4.5 Cl-107 HCO3-25 AnGap-13
___ 05:30AM BLOOD Calcium-8.4 Phos-3.3 Mg-1.9

___ Blood culture: pending, but no growth to date.

___ 2:27 pm URINE     Site: NOT SPECIFIED
      CHM S# ___ ADDED ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

IMAGING:
======================================
CXR
IMPRESSION:  No definite acute cardiopulmonary process.

CT Head
IMPRESSION:
-New left frontotemporal convexity low density extra-axial fluid 
collection may represent a chronic subdural hematoma or subdural 
hygroma. No acute hemorrhage is seen. Chronic changes such as 
small-vessel ischemic disease and cerebellar infarcts.  
-Left parietal subgaleal hematoma. 

CT Abdomen
IMPRESSION: 
-Poorly characterized uncinate process mass as this is a non 
contrast study. No evidence of intra-abdominal abscess or 
hematoma.   
-Partial collapse of the right lower lobe of the lung and right 
pleural 
effusion are again demonstrated.   

CT Spine
IMPRESSION: Degenerative changes of the cervical spine without 
acute fracture or new malalignment. 

 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:
=================================================
___ y/o female with a history of pancreatic cancer and prior h/o 
IDDM presented with weakness and confusion, found to have 
hyperglycemia and ___ c/w ___. 

ACTIVE ISSUES:
=================================================
# ___: Patient presented with several days of confusion, 
urinary incontinence, found to have blood glucose of 800 on 
admission. She had no ketones in her urine or blood, was not 
acidotic. She was admitted to the MICU and initiated on insulin 
drip. Transitioned to SC insulin and transferred to the floor 
where insulin levels were adjusted based on fingerstick BGs. 
Urine culture grew >100,000 colonies of gram positive cocci, 
species alpha hemolytic strep and lactobaccilus. She was treated 
with a 3-day course of ceftriaxone for possible UTI. Noncontrast 
head CT showed chronic small subdural hematomas vs hygroma; 
noncontrast CT abdomen without acute process or bleed; CXR no 
acute process. Prior to admission patient had not been on 
insulin. Per history she had been on insulin in the past, 
however lost weight due to her pancreatic cancer and her 
diabetes became non-insulin dependent (HbA1c in ___ was 7%). 
HbA1c on this admission however was 10%. She was discharged on 
Lantus 9 units qHS with mealtime sliding scale insulin. Mealtime 
sliding scale could be stopped if blood glucose is not extremely 
elevated, in an effort to simplify her insulin regimen.

# AMS: Presented with several days of confusion. During her 
hospital stay she was initialy confused and incoherent. 
Confusion thought to most likely secondary to metabolic 
abnormalities associated with ___, with likely contribution 
from UTI and hospital-acquired delirium. Utox negative. NCHCT 
negative for CVA. Her mental status cleared as her blood glucose 
and UTI were treated. She did initially require haldol and 
quetiapine due to agitation. At time of discharge her mental 
status was AOx1-2 (knew name, hospital but not specific), which 
per her family was her baseline; this was stable on only 
quetiapine 25mg BID. This

# ___ on CKD: Baseline Cr 1.8 most recently in ___. On 
admission Cr was 2.3. Likely prerenal in the setting of 
hyperglycemia with volume depletion. Improved with IVF back to 
baseline.

# CAD: History of MI ___ years ago, per report she had an ECHO 
in ___ which was normal, stress testing in ___ with anterior 
ischemia. Her metoprolol succinate 25mg daily was held given HRs 
in the 60-70s. She was continued on ASA 81mg daily. Patient has 
a documented allergy to statins.

# HTN: Initially her preadmission metoprolol succinate 25mg 
daily, amlodipine 2.5mg daily, lisinopril 10mg daily were held 
in the setting ___ and ___. Lisinopril 10mg daily was 
restarted prior to discharge. The remaining meds were held given 
SBPs in the 130-140s.

# Depression: She was continued on her preadmission mirtazapine 
15mg qHS. Her preadmission citalopram 5mg daily was stopped 
given it was not needed and the dose was likely ineffective.

# Pancreatic cancer: Patient is s/p 3 cycles gemcitabine 
(completed ___ and CyberKnife stereotactic body radiotherapy 
(completed ___. Last visit with Onc ___, at that time 
CT showed no evidence of disease progression or activity, 
however ___ was elevated at 126. Her outpatient Oncologist 
was notified (Dr. ___ of her admission, she 
recommended no urgent studies or labs while inpatient. 

# Mild transaminitis: No hepatic lesions on CT A/P. Stable for 
many years.

TRANSITIONAL ISSUES:
=================================================
- discharged on seroquel 25mg BID; this should be tapered as 
soon as the patient's mental status will allow. She should also 
have weekly EKG to monitor QTc while on Seroquel.
- her metoprolol succinate XL 25mg, amlodipine 2.5mg, and 
furosemide were held given patient had SBP 130-140s. These may 
need to be restarted based on BPs.
- Thyroid nodule seen on CT neck; should have repeat imaging 
(ultrasound) as outpatient.
- stopped citalopram 5mg daily.
- consider eliminating mealtime sliding scale insulin to 
simplify insulin regimen.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 5 mg PO DAILY 
2. LOPERamide 0.5 mg PO BID:PRN diarrhea 
3. PrednisoLONE Acetate 1% Ophth. Susp. Dose is Unknown  BOTH 
EYES BID 
4. Systane (peg 400-propylene glycol) 0.4-0.3 % ophthalmic BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Acetaminophen 650 mg PO Q6H:PRN pain or fever 
7. Vigamox (moxifloxacin) 0.5 % ophthalmic unknown 
8. Amlodipine 2.5 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Furosemide 20 mg PO DAILY 
11. Lidocaine 5% Patch 1 PTCH TD QAM 
12. Lisinopril 10 mg PO DAILY 
13. Mirtazapine 15 mg PO HS 
14. Simethicone 80 mg PO DAILY 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain or fever 
2. Aspirin 81 mg PO DAILY 
3. Lidocaine 5% Patch 2 PTCH TD QAM 
4. Mirtazapine 15 mg PO HS 
5. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
6. Glargine 9 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 
9. Systane (peg 400-propylene glycol) 0.4-0.3 % ophthalmic BID 
10. Vigamox (moxifloxacin) 0.5 % ophthalmic unknown 
11. Docusate Sodium 100 mg PO BID 
12. Senna 8.6 mg PO BID:PRN Constipation 
13. Lisinopril 10 mg PO DAILY 
14. QUEtiapine Fumarate 25 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hyperosmolar hyperglycemic state
Urinary tract infection
Delirium

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you here at ___ 
___. You were admitted on ___ with confusion 
and found to have a very elevated blood glucose (sugar) level. 
You were treated with insulin to improve your glucose levels.

You also were treated for a urinary tract infection. Your 
confusion improved after several days in the hospital.

Again, it was wonderful to meet you. We wish you all the best.
-Your ___ Team
 
Followup Instructions:
___